US07786329B2
(4S,5R)-3-dichloroacetyl-2,2-dimethyl-4-fluoromethyl-5-[4-(methylsulfonyl)phenyl]-1,3-oxazolidine (Compound XIIIa) (60.5 g, 0.1519 moles) selectively hydrolyses in methylene chloride (300 mL) and water (100 mL) containing p-toluene sulfonic acid at 60° C. over several hours. Removal of the methylene chloride by distillation and cooling to 20-25° C. precipitates the product. Filtration, washing with water (100 mL) and toluene (100 mL) then drying yields (1R,2S)-2-dichloroacetamido-3-fluoro-1-[4-(methylsulfonyl)phenyl]-1-propanol (Florfenicol).

reactant | (4S,5R)-3-dichloroacetyl-2,2-dimethyl-4-fluoromethyl-5-[4-(methylsulfonyl)phenyl]-1,3-oxazolidine | 0.1519 moles, 60.5 g | ClC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)S(=O)(=O)C)(C)C)Cl | C15H18Cl2FNO4S
reactant | water | 100 mL | O | H2O
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | (1R,2S)-2-dichloroacetamido-3-fluoro-1-[4-(methylsulfonyl)phenyl]-1-propanol | ClC(C(=O)N[C@@H]([C@H](O)C1=CC=C(C=C1)S(=O)(=O)C)CF)Cl | C12H14Cl2FNO4S
